US08383631B2
2,3-dioxo-1-p-tolylpiperidine-4-carbonitrile
4-(p-Tolylamino)butanenitrile (13.23 g, 75.929 mmol) was dissolved in ethanol (189.8 mL). After adding diethyl oxalate (10.3 mL, 75.929 mmol) and then adding sodium ethoxide (34.0 mL, 91.115 mmol) to the resultant reaction mixture, reaction was carried out under reflux for 2 days. The reaction solution was cooled to room temperature and the concentrated solution was filtered. A target compound (8.94 g, 39.167 mmol, 51.6%) was yielded as yellow solid.

reactant | 4-(p-Tolylamino)butanenitrile | 75.929 mmol, 13.23 g | C1(=CC=C(C=C1)NCCCC#N)C | C11H14N2
reactant | diethyl oxalate | 75.929 mmol, 10.3 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 91.115 mmol, 34.0 mL | [O-]CC.[Na+]
solvent | ethanol | 189.8 mL | C(C)O | C2H6O
product | 2,3-dioxo-1-p-tolylpiperidine-4-carbonitrile | 39.167 mmol, 8.94 g, 51.6% | O=C1N(CCC(C1=O)C#N)C1=CC=C(C=C1)C | C13H12N2O2
